US04500346
A solution of 21.6 g of 2-bromopropionyl bromide in 30 ml of toluene was added dropwise to a solution of 10.1 g of triethylamine and 16.8 g of 2-benzylthioethanol in 150 ml of toluene at room temperature whilst stirring. After the addition was completed, the reaction mixture was stirred for a further 2 hours at room temperature. The mixture was then washed successively with 1% strength by weight aqueous solution of sodium hydroxide and water. After drying the organic phase over anhydrous sodium sulphate, the toluene was distilled off under reduced pressure, and the end product of 2-benzylthioethyl 2-bromopropionate was obtained in a yield of 28.8 g as a colorless product. nD20 =1.5570.

reactant | 2-bromopropionyl bromide | 21.6 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-benzylthioethanol | 16.8 g | C(C1=CC=CC=C1)SCCO | C9H12OS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzylthioethyl 2-bromopropionate | BrC(C(=O)OCCSCC1=CC=CC=C1)C | C12H15BrO2S
